US07622492B2
Thionyl chloride (9.2 mL, 126 mmol) was added dropwise to a solution of (6-methoxy-pyridin-3-yl)-methanol (1.00 g, 7.2 mmol) in dichloromethane (38 mL). The reaction mixture was stirred at room temperature overnight. The solvent was evaporated and dichloromethane (100 mL) was added. The solution was washed with saturated aqueous sodium hydrogen carbonate (this resulted in bubbling). The organic layer was separated and the aqueous layer was extracted with dichloromethane (2×100 mL). The combined organic layers were washed with brine (150 mL), dried (sodium sulfate), filtered, and evaporated to give 5-chloromethyl-2-methoxy-pyridine (995 mg, 88%) as a clear oil.

reactant | Thionyl chloride | 126 mmol, 9.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (6-methoxy-pyridin-3-yl)-methanol | 7.2 mmol, 1.00 g | COC1=CC=C(C=N1)CO | C7H9NO2
solvent | dichloromethane | 38 mL | ClCCl | CH2Cl2
product | 5-chloromethyl-2-methoxy-pyridine | 995 mg, 88% | ClCC=1C=CC(=NC1)OC | C7H8ClNO
